US04772600
α-[(3-Nitro-2-pyridinylamino)methyl]benzenemethanol
A mixture of 2-chloro-3-nitropyridine (20.0 g, 0.13 mole), 2-amino-1-phenylethanol (20.74 g, 0.15 mole), and triethylamine (17.5ml, 0.13 mole) in 200 ml of absolute ethanol was heated to reflux for 11/2 hours. The reaction mixture was filtered and evaporated to dryness. The residue was partitioned between water and methylene chloride (2×). The methylene chloride layers were combined and extracted with water. The methylene chloride layers were dried, filtered, and evaporated to a solid (30.8 g, 94.5%). A 2.4-g sample was recrystallized from methanol and water to give a yellow solid, which was collected by filtration, washed with water, and dried under high vacuum overnight to give 1.8 g of the compound, mp 101°-103° C.

reactant | 2-chloro-3-nitropyridine | 0.13 mole, 20.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-amino-1-phenylethanol | 0.15 mole, 20.74 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | triethylamine | 0.13 mole, 17.5ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | α-[(3-Nitro-2-pyridinylamino)methyl]benzenemethanol | 1.8 g | [N+](=O)([O-])C=1C(=NC=CC1)NCC(O)C1=CC=CC=C1 | C13H13N3O3
